### PR TITLE
Prove finite adeles have the module topology

### PR DESCRIPTION
**Pull request by matthewjasper**
Depends on leanprover-community/mathlib4#25715 and #607

### CODE REVIEW

File: FLT/DedekindDomain/FiniteAdeleRing/BaseChange.lean [hunk 1]
```diff
@@ -115,23 +148,110 @@ noncomputable def FiniteAdeleRing.baseChangeAlgEquiv :
...
+noncomputable local instance (v : HeightOneSpectrum A) : Module (adicCompletionIntegers K v)
+    ((w : Extension B v) → adicCompletion L w.val) :=
+  Module.compHom _ (algebraMap (adicCompletionIntegers K v) (adicCompletion K v))
+
+/-- SMul instance from the module structure. -/
+noncomputable local instance (v : HeightOneSpectrum A) : SMul (adicCompletionIntegers K v)
+    ((w : Extension B v) → adicCompletion L w.val) :=
+  Module.toDistribMulAction.toDistribSMul.toSMul
+
+/-- `∏ 𝓞_w` as an `A`-submodule of `∏ L_w` -/
```
Comment (matthewjasper) [inline FLT/DedekindDomain/FiniteAdeleRing/BaseChange.lean]:
```suggestion
/-- `∏ 𝓞_w` as an `𝓞_v`-submodule of `∏ L_w` -/
```

**Comment by matthewjasper** [comment]
awaiting-author

File: FLT/DedekindDomain/FiniteAdeleRing/BaseChange.lean [hunk 2]
```diff
@@ -61,20 +62,35 @@ open IsDedekindDomain HeightOneSpectrum
...
+lemma tendsTo_comap_confinite [FaithfulSMul A B] :
+    Filter.Tendsto (comap A (B:=B)) Filter.cofinite Filter.cofinite :=
+  have : FaithfulSMul A (FractionRing B) := FractionRing.instFaithfulSMul A B
+  letI : Algebra (FractionRing A) (FractionRing B) :=
+    FractionRing.liftAlgebra A (FractionRing B)
+  (Filter.Tendsto.cofinite_of_finite_preimage_singleton <|
+    Extension.finite A (FractionRing A) (FractionRing B) B)
+
+omit [IsIntegralClosure B A L] [FiniteDimensional K L] in
+lemma confinite_mapsTo_adicCompletionComapSemialgHom :
```
Comment (kbuzzard) [inline FLT/DedekindDomain/FiniteAdeleRing/BaseChange.lean]:
```suggestion
lemma cofinite_mapsTo_adicCompletionComapSemialgHom :
```

File: FLT/DedekindDomain/FiniteAdeleRing/BaseChange.lean [hunk 3]
```diff
@@ -92,21 +108,39 @@ noncomputable
...
+instance : IsScalarTower K L (FiniteAdeleRing B L) :=
+  IsScalarTower.of_algebraMap_eq' rfl
+
+attribute [local instance 9999] Algebra.toSMul in
+instance : IsScalarTower K (FiniteAdeleRing A K) (FiniteAdeleRing B L) := by
+  apply IsScalarTower.of_algebraMap_eq
+  intro x
+  nth_rw 2 [RingHom.algebraMap_toAlgebra]
+  symm
+  exact SemialgHom.commutes (FiniteAdeleRing.mapSemialgHom A K L B) x
```
Comment (kbuzzard) [inline FLT/DedekindDomain/FiniteAdeleRing/BaseChange.lean]: You could have done `exact (SemialgHom.commutes (FiniteAdeleRing.mapSemialgHom A K L B) x).symm` but I'm not bothered :-)

File: FLT/DedekindDomain/FiniteAdeleRing/BaseChange.lean [hunk 4]
```diff
@@ -92,21 +108,39 @@ noncomputable
...
   RingHom.toAlgebra (FiniteAdeleRing.mapRingHom A K L B)
 
+attribute [local instance 9999] Algebra.toSMul in
+noncomputable instance baseChangeAlgebra : Algebra K (FiniteAdeleRing B L) :=
+  Algebra.compHom (FiniteAdeleRing B L) (algebraMap K L)
+
+instance : IsScalarTower K L (FiniteAdeleRing B L) :=
+  IsScalarTower.of_algebraMap_eq' rfl
+
+attribute [local instance 9999] Algebra.toSMul in
```
Comment (kbuzzard) [inline FLT/DedekindDomain/FiniteAdeleRing/BaseChange.lean:117]: This appears to have no effect?

File: FLT/Mathlib/Topology/Algebra/RestrictedProduct/Basic.lean [hunk 5]
```diff
@@ -311,3 +317,182 @@ lemma flatten_equiv'_symm_apply (x) (i : ι₂) (j : f ⁻¹' {i}) :
...
+    apply Set.Subset.trans _ (Pi.mulSupport_mulSingle_subset (b := x))
+    intro j hj
+    rw [Function.mem_mulSupport]
+    contrapose! hj
+    rw [Set.mem_setOf, Set.not_notMem]
+    convert one_mem (A j)
+    by_cases hi : i = j
+    · obtain rfl := hi
+      exact hj
+    · rw [Pi.mulSingle_eq_of_ne' hi]
```
Comment (kbuzzard) [inline FLT/Mathlib/Topology/Algebra/RestrictedProduct/Basic.lean]: Let me introduce you to the wonders of `filter_upwards`:
```
  property := by
    filter_upwards [show {i}ᶜ ∈ Filter.cofinite by aesop]
    aesop
```

File: FLT/Mathlib/Topology/Algebra/RestrictedProduct/Basic.lean [hunk 6]
```diff
@@ -311,3 +317,182 @@ lemma flatten_equiv'_symm_apply (x) (i : ι₂) (j : f ⁻¹' {i}) :
...
+    (h : {i}ᶜ ∈ ℱ) : ∃ y : Πʳ i, [G i, C i]_[ℱ], y i = a ∧ ∀ j ≠ i, y j = x j := by
+  have hy' (j : ι) : ∃ y : G j, (j = i → y ≍ a) ∧ (j ≠ i → y = x j) := by
+    obtain (rfl | hne) := em (j = i)
+    · exact ⟨a, fun _ ↦ HEq.rfl, nofun⟩
+    · exact ⟨x j, fun heq ↦ absurd heq hne, fun _ ↦ rfl⟩
+  choose y hy using hy'
+  refine ⟨⟨y, ?_⟩, eq_of_heq ((hy i).left rfl), fun j ↦ (hy j).right⟩
+  rw [← Filter.eventually_mem_set] at h
+  filter_upwards [h, x.eventually] with j hj hx
+  rwa [(hy j).right hj]
```
Comment (kbuzzard) [inline FLT/Mathlib/Topology/Algebra/RestrictedProduct/Basic.lean]:
```suggestion
lemma exists_update (x : Πʳ i, [G i, C i]_[ℱ]) (i : ι) (a : G i)
    (h : {i}ᶜ ∈ ℱ) : ∃ y : Πʳ i, [G i, C i]_[ℱ], y i = a ∧ ∀ j ≠ i, y j = x j := by
  classical
  exact ⟨⟨fun j ↦ if hj : j = i then hj ▸ a else x j, by
    filter_upwards [h, x.2] with j (hj : j ≠ i)
    aesop⟩, by
    aesop⟩
```

File: FLT/Mathlib/Topology/Algebra/RestrictedProduct/Basic.lean [hunk 7]
```diff
@@ -311,3 +317,182 @@ lemma flatten_equiv'_symm_apply (x) (i : ι₂) (j : f ⁻¹' {i}) :
...
+
+variable (C) in
+lemma exists_apply_eq [∀ i, Nonempty (C i)] (i : ι) (a : G i) (h : {i}ᶜ ∈ ℱ) :
+    ∃ x : Πʳ i, [G i, C i]_[ℱ], x i = a := by
+  let y : Πʳ i, [G i, C i]_[ℱ] := ⟨fun i ↦ (Classical.choice inferInstance : C i),
```
Comment (kbuzzard) [inline FLT/Mathlib/Topology/Algebra/RestrictedProduct/Basic.lean]:
```suggestion
  let y : Πʳ i, [G i, C i]_[ℱ] := ⟨fun i ↦ (Classical.ofNonempty : C i),
```
I think that's how it's usually spelt

File: FLT/Mathlib/Topology/Algebra/RestrictedProduct/Basic.lean (hunk 6 above)
Comment (AbdulShabazz) [reply FLT/Mathlib/Topology/Algebra/RestrictedProduct/Basic.lean]: I don't like the use of aesop in any part of such an important proof. We have yet to formalize the Langlands Program. Its reasoning is obscured. Unless you use `set_option trace.aesop.steps true`.

File: FLT/Mathlib/Topology/Algebra/RestrictedProduct/Module.lean [hunk 8]
```diff
@@ -0,0 +1,244 @@
...
+import FLT.Mathlib.Topology.Algebra.RestrictedProduct.TopologicalSpace
+import FLT.Mathlib.Topology.Algebra.Module.ModuleTopology
+import FLT.Mathlib.Topology.Algebra.MulAction
+import FLT.Mathlib.Algebra.Module.Submodule.Basic
+
+/-!
+If `R : ι → Type*` is a family of rings, `B : (i : ι) → Subring (R i)` is a family of
+subrings, `M : ι → Type*` is a family of types, with `M i` having an `R i`-module structure
+and `C : (i : ι) → Submodule (B i) (M i)`, then `Πʳ i, [M i, C i]_[𝓕]` has a
+`Πʳ i, [R i, B i]_[𝓕]`-module structure.
```
Comment (kbuzzard) [inline FLT/Mathlib/Topology/Algebra/RestrictedProduct/Module.lean:16]: This no doubt creates (pathological) diamonds. For example if M = R and C = B then the resulting restricted product A probably won't get the A-module structure which mathlib already gives it (although I didn't check, and maybe the fact that B has type Subring and C has type Submodule saves you?), and if the M_i are already modules for the restricted product then maybe there are problems. I don't these things will ever happen in practice though.

File: FLT/Mathlib/Topology/Algebra/RestrictedProduct/Module.lean [hunk 9]
```diff
@@ -0,0 +1,244 @@
...
+variable {B : Π i, S i}
+variable {ℱ : Filter ι}
+
+variable {M : ι → Type*} [Π i, AddCommGroup (M i)] [Π i, Module (R i) (M i)]
+variable {N : ι → Type*} -- submodule type
+variable [Π i, SetLike (N i) (M i)] [∀ i, AddSubgroupClass (N i) (M i)]
+variable [∀ i, SMulMemClass (N i) (B i) (M i)]
+variable {C : Π i, N i}
+
+instance : SMul (Πʳ i, [R i, B i]_[ℱ]) (Πʳ i, [M i, C i]_[ℱ]) where
```
Comment (kbuzzard) [inline FLT/Mathlib/Topology/Algebra/RestrictedProduct/Module.lean:55]: The rule of thumb seems to be "instances of the form `SMul A B -> SMul (F A) (F B)` can in theory create diamonds" but as I say I am not sure I care.

File: FLT/Mathlib/Topology/Algebra/RestrictedProduct/Module.lean [hunk 10]
```diff
@@ -0,0 +1,244 @@
...
+  smul r m := ⟨fun i ↦ (r i) • (m i), by
+    filter_upwards [r.prop, m.prop] with i hr hm using SMulMemClass.smul_mem ⟨r i, hr⟩ hm⟩
+
+omit [Π i, AddSubgroupClass (N i) (M i)] in
+@[simp]
+lemma smul_apply' (r : Πʳ i, [R i, B i]_[ℱ]) (m : Πʳ i, [M i, C i]_[ℱ]) (i : ι) :
+    (r • m) i = r i • m i :=
+  rfl
+
+instance module' : Module (Πʳ i, [R i, B i]_[ℱ]) (Πʳ i, [M i, C i]_[ℱ]) where
```
Comment (kbuzzard) [inline FLT/Mathlib/Topology/Algebra/RestrictedProduct/Module.lean]: Why not `module`?

File: FLT/Mathlib/Topology/Algebra/RestrictedProduct/Module.lean (hunk 8 above)
Comment (matthewjasper) [reply FLT/Mathlib/Topology/Algebra/RestrictedProduct/Module.lean:16]: The instances are def-eq
```lean
example : module' (R:=R) (B:=B) (M:=R) (C:=fun i ↦ Subring.toSubmodule (Subring.ofClass (B i))) =
    Semiring.toModule (R := (Πʳ i, [R i, B i]_[ℱ])) :=
  rfl
```
And yes, there's a restricted product of restricted products issue, but I agree that's not worth caring about.

File: FLT/Mathlib/Topology/Algebra/RestrictedProduct/Module.lean (hunk 10 above)
Comment (matthewjasper) [reply FLT/Mathlib/Topology/Algebra/RestrictedProduct/Module.lean]: It was to avoid a name collision with the existing module instance, but that doesn't have a name so I guess this one doesn't need one either.

File: FLT/DedekindDomain/FiniteAdeleRing/BaseChange.lean (hunk 4 above)
Comment (matthewjasper) [reply FLT/DedekindDomain/FiniteAdeleRing/BaseChange.lean:117]: Instance synthesis times out without it for me.

Comment (kbuzzard) [reply FLT/DedekindDomain/FiniteAdeleRing/BaseChange.lean:117]: Oh weird, I thought I commented it out and things compiled fine, but I agree that now it's timing out for me.

**Comment by kbuzzard** [comment]
Thanks a lot and sorry it's taken so long to get this in!
